US05457124
A 9.73 g (ca. 20 mmol) sample of crude rac-4-[2-(3-methoxy-3-oxo-1-propenyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]phenoxy]butanoic acid ethyl ester from the preceding example was hydrogenated in 275 mL of ethyl acetate, over 0.75 g of 10% palladium on carbon, at room temperature and 1 atmosphere, for 24 hr. rac-2-(4-Ethoxy-4-oxobutoxy)-6-[6-[(tetrahydro-2H-pyran-2-yl)oxy]hexyl]benzenepropanoic acid methyl ester, an oil, was isolated by filtration of the catalyst and concentration of the filtrate, in quantitative yield (9.74 g).

reactant | rac-4-[2-(3-methoxy-3-oxo-1-propenyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]phenoxy]butanoic acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)C#CCCCCOC1OCCCC1)C=CC(=O)OC)=O | C27H36O7
solvent | ethyl acetate | 275 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
product | rac-2-(4-Ethoxy-4-oxobutoxy)-6-[6-[(tetrahydro-2H-pyran-2-yl)oxy]hexyl]benzenepropanoic acid methyl ester | quantitative yield | COC(CCC1=C(C=CC=C1CCCCCCOC1OCCCC1)OCCCC(=O)OCC)=O | C27H42O7
